US06211223B1
(a) Benzyl 1H-indole-6-carboxylate
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5 g, 26.1 mmol) was added to a stirred solution of benzyl alcohol (2.47 ml, 23.9 mmol), 1H-indole-6-carboxylic acid (3.5 g, 21.7 mmol) and N,N-dimethylaminopyridine (3.4 g, 28.3 mmol) in dichloromethane (40 ml) at room temperature under a nitrogen atmosphere. After 12 h the reaction mixture was poured into 1M hydrochloric acid (200 ml) and extracted with dichloromethane (2×200 ml). The combined organics were dried (MgSO4) and concentrated to give a brown oil. Flash column chromatography (elution with dichloromethane) gave the subtitle compound (5.4 g).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 26.1 mmol, 5 g | Cl.CN(CCCN=C=NCC)C
reactant | benzyl alcohol | 23.9 mmol, 2.47 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 1H-indole-6-carboxylic acid | 21.7 mmol, 3.5 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | hydrochloric acid | 1M, 200 ml | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Benzyl 1H-indole-6-carboxylate | 5.4 g | N1C=CC2=CC=C(C=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
